US07915271B2
(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-5-[5′-bromo-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]-4-methyl-1,3-oxazolidin-2-one (358 mg, 0.545 mmol), [2-amino-4-(methoxycarbonyl)phenyl]boronic acid (214 mg, 1.1 mmol), dichloro bis(triphenylphosphine)palladium(II) (76.5 mg, 0.109 mmol), aqueous potassium carbonate (545 μL, 2M, 1.09 mmol) and ethanol (5 mL) were mixed and heated in a 80° C. oil bath. Aliquot at reaction time 2 hours and 3.5 hours indicated about 6% of unreacted starting material. Added more [2-amino-4-(methoxycarbonyl)phenyl]boronic acid (50 mg, 0.256 mmol) when reaction time was 3 hours 45 minutes. Aliquot did not show any further progress. Crude mixture was cooled and mixed with brine. Volatiles were removed from the crude under reduced pressure. The resulting mixture was treated with water followed by ethyl acetate extraction. The combined extracts were dried over Na2SO4, filtrated and concentrated under reduced pressure to afford a dark oil. The resulting oil was purified by flash chromatography (SiO2, Biotage 40+M cartridge, EtOAc/hexanes, gradient) followed by preparative TLC purification (SiO2, 10% ethyl acetate in dichloromethane) to afford methyl 2-amino-2″-{(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-4-methyl-2-oxo-1,3-oxazolidin-5-yl}-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate. LCMS calc.=726.18; found=727.29 (M+1)+.

reactant | (4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-5-[5′-bromo-2′-methoxy-4-(trifluoromethyl)biphenyl-2-yl]-4-methyl-1,3-oxazolidin-2-one | 0.545 mmol, 358 mg | FC(C=1C=C(CN2C(O[C@@H]([C@H]2C)C2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)Br)OC)=O)C=C(C1)C(F)(F)F)(F)F | C27H19BrF9NO3
reactant | [2-amino-4-(methoxycarbonyl)phenyl]boronic acid | 1.1 mmol, 214 mg | NC1=C(C=CC(=C1)C(=O)OC)B(O)O | C8H10BNO4
reactant | potassium carbonate | 1.09 mmol, 2M, 545 μL | C([O-])([O-])=O.[K+].[K+]
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | [2-amino-4-(methoxycarbonyl)phenyl]boronic acid | 0.256 mmol, 50 mg | NC1=C(C=CC(=C1)C(=O)OC)B(O)O | C8H10BNO4
solvent | brine | [Cl-].[Na+].O
catalyst | dichloro bis(triphenylphosphine)palladium(II) | 0.109 mmol, 76.5 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | methyl 2-amino-2″-{(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-4-methyl-2-oxo-1,3-oxazolidin-5-yl}-4′-methoxy-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | NC1=C(C=CC(=C1)C(=O)OC)C1=CC(=C(C=C1)OC)C1=C(C=C(C=C1)C(F)(F)F)[C@@H]1[C@H](N(C(O1)=O)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C35H27F9N2O5
